US07125896B2
b) 1-Bromo-2-(cyclopropylmethoxy)benzene
Prepared from cyclopropylmethyl bromide and 2-bromophenol by the method of Example 42 (b) except that the reaction mixture was stirred at 75° C. for 4 h. This gave the product as a colourless oil.

reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
reactant | 2-bromophenol | BrC1=C(C=CC=C1)O | C6H5BrO
product | 1-Bromo-2-(cyclopropylmethoxy)benzene | BrC1=C(C=CC=C1)OCC1CC1 | C10H11BrO
